US05455273
f) trans-N-(4-chlorobenzoyl)-N-methyl-4-phenylcyclohexylamine
from trans-N-methyl-4-phenylcyclohexylamine and 4-chlorobenzoylchloride. Melting point: 138°-140° C.

reactant | trans-N-methyl-4-phenylcyclohexylamine | CN[C@@H]1CC[C@H](CC1)C1=CC=CC=C1 | C13H19N
reactant | 4-chlorobenzoylchloride | ClC1=CC=C(C(=O)Cl)C=C1 | C7H4Cl2O
product | trans-N-(4-chlorobenzoyl)-N-methyl-4-phenylcyclohexylamine | ClC1=CC=C(C(=O)N(C)[C@@H]2CC[C@H](CC2)C2=CC=CC=C2)C=C1 | C20H22ClNO
